US06982348B2
5) (2RS,3RS)-3-[3-(benzyloxy)phenyl]-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid
To a solution of ethyl (2RS,3RS)-3-[3-(benzyloxy)phenyl]-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate (10.7 g, 21.2 mmol, crude) in methanol (50 ml) was added. 2N aqueous sodium hydroxide solution (21 ml, 42 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was acidified with 1N hydrochloric acid and extracted with ethyl acetate (50 ml×2). The extract was washed with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The obtained crude crystals were washed with hexane to give the objective substance (7.90 g, 49% in 3 steps).

reactant | ethyl (2RS,3RS)-3-[3-(benzyloxy)phenyl]-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate | 21.2 mmol, 10.7 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C(F)F)(F)F)O | C27H26F4O5
reactant | sodium hydroxide | 42 mmol, 2N, 21 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | (2RS,3RS)-3-[3-(benzyloxy)phenyl]-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C(C(=O)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F)O | C25H22F4O5
